US04008264
In a polyethylene vessel having a capacity of 1 liter, at -20° C and with agitation, 46 g of ammonium thiocyanate (0.6 mol) and subsequently 53 g of ethylbenzene (0.5 mol) are added in portions to 0.5 l of 98% hydrofluoric acid. Subsequently, agitation is continued for 20 hours at room temperature, and the reaction mixture is then poured onto ice, thus causing the separation of a precipitate which slowly crystallizes. The precipitate is suction-filtered and washed with water. By steam distillation, about 10 g of ethylbenzene are recovered from the precipitate. After drying, 66 g (0.4 mol) of ethyl-thiobenzamide having a slightly yellow color and a melting point of 115 - 117° C are obtained, which corresponds to a conversion rate of 80% relative to the ethylbenzene used. The yield, relative to converted ethylbenzene, is 95% of the thoeretical yield. The product can be recrystallized from toluene or chlorobenzene. The gas chromatogram shows that substitution by the thioamide group has occured in p-position at a rate of more than 95%. The 4-ethylbenzonitrile may be obtained from the thioamide in known manner using alkali, thereby splitting off H2S.

reactant | ammonium thiocyanate | 0.6 mol, 46 g | [S-]C#N.[NH4+]
reactant | ethylbenzene | 0.5 mol, 53 g | C(C)C1=CC=CC=C1 | C8H10
reactant | hydrofluoric acid | 0.5 l | F | FH
product | ethyl-thiobenzamide | 0.4 mol, 66 g | C(C)C1=C(C(=S)N)C=CC=C1 | C9H11NS
